US05180735
To a solution of fumagillol (200 mg) in ethanol (2 ml) was added 0.5N hydrochloric acid (1 ml), and the mixture was stirred at room temperatures for one hour. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate to neutralize, which was concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (carrier 10 g, developing solvent:hexane-ethylacetate=3:1) to give 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(chloromethyl)-1,4-cyclohexanediol (200 mg: yield 90%).

reactant | fumagillol | 200 mg | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)O)OC)C | C16H26O4
reactant | hydrochloric acid | 0.5N, 1 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(chloromethyl)-1,4-cyclohexanediol | 200 mg, yield 90% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CCl | C16H27ClO4
